US07491710B2
39 mg of 3-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-5-(methoxyphenyl-phosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester are dissolved in 0.5 ml of dichloromethane and then 0.5 ml of trifluoroacetic acid is added. The solution is stirred at ambient temperature for approximately two hours. The solvent is evaporated off under reduced pressure in a rotary evaporator. The reaction crude is purified by preparative LC/MS to obtain 19 mg of phenylphosphonic acid methyl ester 3-(1H-pyrrol-2-yl)-1H-indazol-5-yl ester as a trifluoroacetate salt.

reactant | 3-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-5-(methoxyphenyl-phosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | 39 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)(C1=CC=CC=C1)OC)C=1N(C=CC1)C(=O)OC(C)(C)C | C28H32N3O7P
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | phenylphosphonic acid methyl ester 3-(1H-pyrrol-2-yl)-1H-indazol-5-yl ester | 19 mg | N1C(=CC=C1)C1=NNC2=CC=C(C=C12)OP(OC)(=O)C1=CC=CC=C1 | C18H16N3O3P
